US07030128B2
4-(6-Bromopyridin-2-yl)morpholine (0.46 g, 1.9 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.8 mmol) by the method of Example 1. Purification by chromatography on silica gel eluting with dichloromethane on a gradient of methanol (0-10%) and crystallisation from ethyl acetate-isohexane gave 3-[6-(morpholin-4-yl)pyridin-2-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine (220 mg) as a yellow solid: δH (400 MHz, CDCl3) 3.57 (4H, t, J 5), 3.90 (4H, t, J 5), 6.65 (1H, d, J 8), 7.20 (1H, d, J 8), 7.33 (1H, d, J 7), 7.65 (1H, dd, J 8 and 8), 8.42 (1H, s), 10.19 (1H, d, J 7); m/z (ES+) 350 (M++H).

reactant | 4-(6-Bromopyridin-2-yl)morpholine | 1.9 mmol, 0.46 g | BrC1=CC=CC(=N1)N1CCOCC1 | C9H11BrN2O
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.8 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[6-(morpholin-4-yl)pyridin-2-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | 220 mg | N1(CCOCC1)C1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C16H14F3N5O
